US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with 1-bromomethyl-4-isopropylbenzene (15 g), a 2M ethanolic solution of sodium ethylate (49 cc) and ethyl 2-mercaptoacetate (9.8 g) in ethanol (150 cc). Ethyl (4-isopropylbenzylthio)acetate (17.9 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | 1-bromomethyl-4-isopropylbenzene | 15 g | BrCC1=CC=C(C=C1)C(C)C | C10H13Br
reactant | sodium ethylate | 49 cc | CC[O-].[Na+]
reactant | ethyl 2-mercaptoacetate | 9.8 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | Ethyl (4-isopropylbenzylthio)acetate | 17.9 g | C(C)(C)C1=CC=C(CSCC(=O)OCC)C=C1 | C14H20O2S
